US08871753B2
Step C: 2-(Trimethylsilyl)ethyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate
A solution of 1-(2-bromo-4-nitrophenyl)piperazine dihydrochloride (1.9 g, 5.8 mmol) in acetonitrile (50 mL) was treated with 1-({[2-(trimethylsilyl)ethoxy]carbonyl}oxy)pyrrolidine-2,5-dione (1.5 g, 5.9 mmol) followed by water (15 mL) and sodium carbonate (1.9 g, 18 mmol) and stirred at 20° C. for 6 h. The reaction mixture was diluted with ethyl acetate (400 mL) and washed with water and brine, dried over anhydrous sodium sulfate, filtered, and evaporated to give a residue. This material was purified by flash column chromatography to give the desired product (2.4 g, 87%) as a solid. [TEOC: (2-(trimethylsilyl)ethoxy)carbonyl]

reactant | 1-(2-bromo-4-nitrophenyl)piperazine dihydrochloride | 5.8 mmol, 1.9 g | Cl.Cl.BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1
reactant | 1-({[2-(trimethylsilyl)ethoxy]carbonyl}oxy)pyrrolidine-2,5-dione | 5.9 mmol, 1.5 g | C[Si](CCOC(=O)ON1C(CCC1=O)=O)(C)C | C10H17NO5Si
reactant | water | 15 mL | O | H2O
reactant | sodium carbonate | 18 mmol, 1.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Trimethylsilyl)ethyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate | 2.4 g, 87% | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OCC[Si](C)(C)C | C16H24BrN3O4Si
